US06500952B1
N,N-Dimethyl-2carboxy-5-nitrobenzenesulfonamide
60.2 g of lithium hydroxide monohydrate are added to a solution of 206.7 g of N,N-dimethyl-2-methoxycarbonyl-5-nitrobenzenesulfonamide in 1500 ml of methanol. The mixture is subsequently stirred at 50° C. until conversion is complete. Following the concentration of the reaction mixture under reduced pressure, the residue is taken up in water and is treated at 0° C. with concentrated hydrochloric acid (pH=1). Filtration with suction followed by drying gives the desired compound. Yield: 162.9 g; m.p.: 160-163° C.

reactant | lithium hydroxide monohydrate | 60.2 g | O.[OH-].[Li+]
reactant | N,N-dimethyl-2-methoxycarbonyl-5-nitrobenzenesulfonamide | 206.7 g | CN(S(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C(=O)OC)C | C10H12N2O6S
reactant | hydrochloric acid | pH=1 | Cl | ClH
solvent | methanol | 1500 ml | CO | CH4O
solvent | water | O | H2O
product | N,N-Dimethyl-2carboxy-5-nitrobenzenesulfonamide | CN(S(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C(=O)O)C | C9H10N2O6S
